US04665188
2.75 g of 50% sodium hydride was suspended in 120 ml of tetrahydrofuran and 14.5 g of triethyl phosphonoacetate was added thereto. The mixture was stirred at room temperature for 15 minutes and 10.2 g of 5-oxo-5,6,7,8-tetrahydro-2-naphthonitrile was added thereto. The resulting mixture was heated under reflux for 1 hour. After cooling, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with water and dried and then concentrated in vacuo. The residue was purified by column chromatography on 100 g of silica gel to give an oily product. The product was dissolved in 80 ml of ethanol and 1.5 g of 10% palladium carbon was added thereto. The mixture was catalytically reduced. After absorption of hydrogen gas was completed, the catalyst was removed by filtration. The filtrate was concentrated in vacuo to give 12.1 g of ethyl 2-(6-cyano-1,2,3,4-tetrahydro-1-naphthyl)acetate as crystals with m.p. 45°-47° C.

reactant | sodium hydride | 2.75 g | [H-].[Na+]
reactant | 5-oxo-5,6,7,8-tetrahydro-2-naphthonitrile | 10.2 g | O=C1C=2C=CC(=CC2CCC1)C#N | C11H9NO
reactant | water | O | H2O
reactant | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | palladium carbon | 1.5 g | [C].[Pd]
product | ethyl 2-(6-cyano-1,2,3,4-tetrahydro-1-naphthyl)acetate | 12.1 g | C(#N)C=1C=C2CCCC(C2=CC1)CC(=O)OCC | C15H17NO2
